US06326359B1
(2R,3R,4S,5R)-2-(6-[(2,2-Diphenylethyl)amino]-2-{[2-(1-piperidinyl)ethoxy]methyl}-9H-purin-9-yl)-5-(methoxymethyl)tetrahydro-3,4-furandiol
The title compound was prepared by a similar method to example 38 using N-(9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-2-{[2-(1-piperidinyl)ethoxy]methyl}-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine (100 mg, 0.12 mmol) (preparation 29), and a 1M solution of tetra-n-butylammonium fluoride in tetrahydrofuran (0.5 ml, 0.5 mmol). The compound was purified by column chromatography on silica gel eluting with a solvent system of dichloromethane:methanol:ammonia (95:5:0.5) to give the title compound (22 mg) as a gum. MS: 604 (MH+).

reactant | N-(9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-2-{[2-(1-piperidinyl)ethoxy]methyl}-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine | 0.12 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)COCCN1CCCCC1 | C45H70N6O5Si2
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 0.5 mmol, 0.5 ml | O1CCCC1 | C4H8O
product | (2R,3R,4S,5R)-2-(6-[(2,2-Diphenylethyl)amino]-2-{[2-(1-piperidinyl)ethoxy]methyl}-9H-purin-9-yl)-5-(methoxymethyl)tetrahydro-3,4-furandiol | 22 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)COCCN1CCCCC1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)C1=CC=CC=C1 | C33H42N6O5
